US04514408
By operating as described hereinabove, by reacting 0.2 mol of 3-hydroxybenzaldehyde with 0.4 mol of thiomorpholine in the presence of 0.2 mol of sodium borohydride (as in PREPARATION 1(a) 3-thiomorpholinomethylphenol is obtained, which, treated with an excess of 3-chloropropylamine hydrochloride in the presence of sodium hydride (as in PREPARATION 1(b), gives 3-(3-thiomorpholinomethylphenoxy)propylamine, in the form of an oil.

reactant | 3-hydroxybenzaldehyde | 0.2 mol | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | thiomorpholine | 0.4 mol | N1CCSCC1 | C4H9NS
reactant | sodium borohydride | 0.2 mol | [BH4-].[Na+]
reactant | 3-thiomorpholinomethylphenol | S1CCN(CC1)CC=1C=C(C=CC1)O | C11H15NOS
reactant | 3-chloropropylamine hydrochloride | Cl.ClCCCN
reactant | sodium hydride | [H-].[Na+]
product | 3-(3-thiomorpholinomethylphenoxy)propylamine | S1CCN(CC1)CC=1C=C(OCCCN)C=CC1 | C14H22N2OS
